US05284852
2-Butyl-6-(1-hydroxypropyl)-4(1H)-quinazolinone
To a solution of 0.25 g of 2-butyl-1,4-dihydro-4-oxo-6-quinazolinecarboxaldehyde in 10 ml of dry tetrahydrofuran, cooled to 0° C., is added 1.63 ml of 2.0M ethyl magnesium bromide in tetrahydrofuran. The reaction mixture is stirred for 30 minutes at 0° C. and quenched with 20 ml of saturated ammonium chloride solution and 20 ml of water. The reaction mixture is extracted with 9:1 chloroform-methanol, dried over magnesium sulfate, filtered and evaporated in vacuo to give 0.26 g of the desired product. CI MASS SPEC 261(MH+).

reactant | 2-butyl-1,4-dihydro-4-oxo-6-quinazolinecarboxaldehyde | 0.25 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=O | C13H14N2O2
reactant | ethyl magnesium bromide | 2.0M, 1.63 ml | C(C)[Mg]Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Butyl-6-(1-hydroxypropyl)-4(1H)-quinazolinone | 0.26 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C(CC)O | C15H20N2O2
